US06255323B1
9H-fluorene-9-carboxylic acid (4-(N′-cyano-N″-pyridin-4-yl-guanidinomethyl)-phenyl)-amide (SBR-11-2727) was synthesized as follows
N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine (133 mg, 0.50 mmol) and 9H-fluorene-9-carboxylic acid (105 mg, 0.50 mmol) were suspended in N,N-dimethylformamide(1.0 mL). Benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (232 mg, 0.52 mmol) was added followed by N,N-diisopropylethylamine (0.20 mL, 1.15 mmol). The reaction mixture was stirred at room temperature for 24 hours and then diluted with ethyl acetate (30 mL). This solution was washed with water (30 mL×2) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give the desired product (102 mg, 44.5%). 1H NMR (DMSO-d6, ppm): 10.72 (s, 1H), 9.59 (bs, 1H), 8.37 (d, 2H), 8.27 (bs, 1H), 7.90 (d, 2H), 7.60 (t, 4H), 7.43 (t, 2H), 7.31 (m, 4H), 7.18 (m, 2H), 5.03 (s, 1H), 4.43 (d, 2H).

reactant | N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine | 0.50 mmol, 133 mg | NC1=CC=C(CNC(=NC2=C3C=CC=NC3=CC=C2)NC#N)C=C1 | C18H16N6
reactant | 9H-fluorene-9-carboxylic acid | 0.50 mmol, 105 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | Benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.52 mmol, 232 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.15 mmol, 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 9H-fluorene-9-carboxylic acid (4-(N′-cyano-N″-pyridin-4-yl-guanidinomethyl)-phenyl)-amide | 102 mg, 44.5% | C(#N)N=C(NCC1=CC=C(C=C1)NC(=O)C1C2=CC=CC=C2C=2C=CC=CC12)NC1=CC=NC=C1 | C28H22N6O
